US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1-acetyl-piperidin-4-yl)-1H-imidazol-4-yl]-amide
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-piperidin-4-yl-1H-imidazol-4-yl)-amide (200 mg, 4.8 mmol) was dissolved in 5 mL of methylene chloride, charged with 0.08 mL of triethylamine, and 0.03 mL of acetylchloride at 0° C. The reaction was stirred for 12 h, quenched with sodium bicarbonate, extrated with methylene chloride and concentrated. The compound was purified by silica gel chromatography to afford the title compound: C13 NMR (100 MHz, CDCl3) 13.9, 18.9, 21.6, 32.8, 33.7, 36.0, 40.7, 43.0, 45.4, 53.1, 55.5, 102.6, 102.8, 103.1, 105.6, 105.7, 112.3, 112.4, 112.5, 131.5, 137.8, 169.1, 169.3, 169.5; MS 462.25 m/z (M+1).

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-piperidin-4-yl-1H-imidazol-4-yl)-amide | 4.8 mmol, 200 mg | N1CCC(CC1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H27F2N5O2
reactant | triethylamine | 0.08 mL | C(C)N(CC)CC | C6H15N
reactant | acetylchloride | 0.03 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1-acetyl-piperidin-4-yl)-1H-imidazol-4-yl]-amide | C(C)(=O)N1CCC(CC1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C23H29F2N5O3
